US06858651B2
0.35 g (0.87 mmol) trans-N-[4-(3-Cyano-propoxy)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide in 6 ml ethanol were treated with HCl gas at low temperature for 20 min. The mixture was kept at −20° C. for 48 h, was concentrated under reduced pressure to yield 400 mg (quant.) trans-4-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-butyrimidic acid ethyl ester as light brown oil, MS: 451 (MH+).

reactant | trans-N-[4-(3-Cyano-propoxy)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 0.87 mmol, 0.35 g | C(#N)CCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C18H23F3N2O3S
reactant | HCl | Cl | ClH
reactant | ethanol | 6 ml | C(C)O | C2H6O
product | trans-4-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-butyrimidic acid ethyl ester | 400 mg | C(C)OC(CCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=N | C20H29F3N2O4S
